US08304446B2
7-Fluoro-4-(methyloxy)-1H-indazol-3-amine
To a suspension of 2-[7-fluoro-4-(methyloxy)-1H-indazol-3-yl]-1H-isoindole-1,3(2H)-dione (for a preparation see Intermediate 13) (1.36 g, 4.37 mmol) in ethanol (15 mL) at 0° C. (ice/water bath) was added hydrazine hydrate (0.638 mL, 13.11 mmol) dropwise. The ice/water bath was removed and the reaction mixture was allowed to warm to room temperature. Stirring was continued for a further 40 min. During this time the reaction mixture became very viscous. Acetone (10 mL) was added to the reaction and the resultant reaction mixture was allowed to stand at room temperature overnight. The solid was removed by filtration and washed with acetone (×2). The combined filtrates were concentrated in vacuo. The solid was triturated in cyclohexane-ethyl acetate (2:1; ˜25 mL) and then collected by filtration to give the title compound (479 mg, 60%) as a light brown powder. LCMS (System A) RT=0.69 min, ES+ve m/z 182 (M+H)+. The filtrate was concentrated and the resultant oil was loaded in dichloromethane (and minimum amount of methanol) to a silica cartridge 70 g and purified by chromatography on Flashmaster eluting with a 0-50% ethyl acetate-cyclohexane over 30 min. The appropriate fractions were combined and evaporated in vacuo to give another batch of the required product (316 mg, 40%) as a brown oil. LCMS (System A) RT=0.62 min, ES+ve m/z 182 (M+H)+.

reactant | 2-[7-fluoro-4-(methyloxy)-1H-indazol-3-yl]-1H-isoindole-1,3(2H)-dione | FC=1C=CC(=C2C(=NNC12)N1C(C2=CC=CC=C2C1=O)=O)OC | C16H10FN3O3
reactant | hydrazine hydrate | 13.11 mmol, 0.638 mL | O.NN
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 7-Fluoro-4-(methyloxy)-1H-indazol-3-amine | 479 mg, 60% | FC=1C=CC(=C2C(=NNC12)N)OC | C8H8FN3O
